US05385912
A 55 g (0.2 mole) portion of trimethyl 4-oxocyclohexane-1,1,3-tricarboxylate is dissolved in 240 ml DMF and to this is added 26 g (0.445 mole) of sodium chloride and 16 ml (0.89 mole) of water, under nitrogen. This mixture is heated to reflux and maintained for 48 hours, under nitrogen. The reaction is then stripped to dryness under reduced pressure, the residue added to water and the crude product extracted into dichloromethane (3×100 ml). The combined extracts are dried over MgSO4 and stripped to dryness, giving a yellow oil. This crude product is vacuum-distilled to obtain methyl 4-oxocyclohexane-1-carboxylate (b.p. 82°-108° C. at 1.0 mm Hg) which is used directly in the next step.

reactant | trimethyl 4-oxocyclohexane-1,1,3-tricarboxylate | O=C1C(CC(CC1)(C(=O)OC)C(=O)OC)C(=O)OC | C12H16O7
reactant | sodium chloride | 0.445 mole, 26 g | [Cl-].[Na+]
reactant | water | 0.89 mole, 16 ml | O | H2O
solvent | DMF | 240 ml | CN(C)C=O | C3H7NO
product | methyl 4-oxocyclohexane-1-carboxylate | O=C1CCC(CC1)C(=O)OC | C8H12O3
